* C:\Users\Matt\Documents\git\ltspice_models\phase_shift_oscillator\phase_shift_oscillator_bjt.asc
Q1 N001 N003 N006 0 2N3904
I1 N003 0 PULSE(0 1uA 0 0 0 1us 1m 1000)
R1 N003 0 10K
R2 N005 0 10K
R3 N004 0 10K
C1 N003 N005 10n
C2 N005 N004 10n
C3 N004 N001 10n
R4 N006 0 390
C4 N006 0 100µ
R5 9V N001 4.7K
R6 9V N003 100K
V1 9V 0 9
C5 N002 N001 10µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Matt\Documents\LTspiceXVII\lib\cmp\standard.bjt
* F=1/(2*3.14*sqrt(6)*C*R)
* Sig_Out
.tran 10
.backanno
.end
